US04952493
Boc-Phe-Gly-Leu-Gln-NA (0.90 g) was deblocked by treatment with ethanolic HCl to yield 0.79 g of H-Phe-Gly-Leu-Gln-NA HCl. TLC in 1-butanol:acetic acid:water (4:1:1) indicated a major spot, Rf 0.61, and two trace spots, Rf 0.71 and Rf 0.51.

reactant | Boc-Phe-Gly-Leu-Gln | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C27H41N5O8
reactant | HCl | Cl | ClH
product | H-Phe-Gly-Leu-Gln | 0.79 g | N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C22H33N5O6
